US06683211B1
c) 5-(4-Bromo-phenyl)-2,2-dimethyl-[1,3]dioxolan-4-one
(4-Bromo-phenyl)-hydroxy-acetic acid (97 g, 0.42 mol) is dissolved in 200 ml of acetone and cooled to −10° C. At this temperature 23 ml of concentrated sulfuric acid are added dropwise. After the addition is complete, the reaction mixture is stirred at −10° C. for further 30 minutes and is subsequently poured into a cooled (0° C.) solution of sodium carbonate (86 g, mol) in 800 ml of water. The crystalline 5-(4-bromo-phenyl)-2,2-dimethyl-[1,3]dioxolan-4-one is filtered, washed with ice-cold water and dried in the high-vacuum. 1H-NMR (300 MHz, CDCl3): 1.72 (s, 3H, CH3), 1.76 (s, 3H, CH3), 5.37 (s, 1H, CHO), 7.37 (d, 2H, CH arom.), 7.56 (d, 2H, CH arom.).

reactant | (4-Bromo-phenyl)-hydroxy-acetic acid | 0.42 mol, 97 g | BrC1=CC=C(C=C1)C(C(=O)O)O | C8H7BrO3
reactant | sulfuric acid | 23 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 86 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 800 ml | O | H2O
product | 5-(4-Bromo-phenyl)-2,2-dimethyl-[1,3]dioxolan-4-one | BrC1=CC=C(C=C1)C1C(OC(O1)(C)C)=O | C11H11BrO3
